US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-propyl-1H-imidazo[4,5-c]quinoline (3.10 g, 8.44 mmol) by reaction with m-CPBA (3.70 g) to provide 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-5-oxido-2-propyl-1H-imidazo[4,5-c]quinoline followed by reaction with p-toluenesulfonyl chloride (2.80 g, 14.7 mmol) and ammonium hydroxide solution (100 mL) to provide 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as off-white needles after recrystallization from aqueous methanol, mp 186-188° C.

reactant | 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-propyl-1H-imidazo[4,5-c]quinoline | 8.44 mmol, 3.10 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)(CC2(OCCO2)C)C | C22H29N3O2
reactant | m-CPBA | 3.70 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-5-oxido-2-propyl-1H-imidazo[4,5-c]quinoline | CC(CN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CCC)(CC2(OCCO2)C)C | C22H29N3O3
